US06743789B2
8-Methoxy-6-oxo-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic Acid Ethyl Ester
5-(2,4-Dimethoxy-benzyl)-8-methoxy-6-oxo-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic acid ethyl ester (9.8 g, 22 mmol) was suspended in CH2Cl2 (50 mL), cooled in ice, and diluted sowly with trifluoroacetic acid (50 mL). The resulting clear solution was treated at 5° C. with trifluoromethanesulfonic acid (3.8 mL, 44 mmol). The now red solution was stirred at rt for 2 h, evaporated to dryness, and the residue extracted with CH2Cl2 (500 mL), and 2×10% NaHCO3 (500 mL). The crude product (ca. 10 g) was digested with hot ethyl acetate (100 mL), allowed to cool, and the white crystals (5.6 g, 85%) were filtered off. mp 240° C. m/z 301 (M).

reactant | 5-(2,4-Dimethoxy-benzyl)-8-methoxy-6-oxo-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic acid ethyl ester | 22 mmol, 9.8 g | C(C)OC(=O)C=1N=CN2C3=C(C(N(CC12)CC1=C(C=C(C=C1)OC)OC)=O)C=C(C=C3)OC | C24H25N3O6
reactant | trifluoromethanesulfonic acid | 44 mmol, 3.8 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 8-Methoxy-6-oxo-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1N=CN2C3=C(C(NCC12)=O)C=C(C=C3)OC | C15H15N3O4
